US06982274B2
3-(3-Fluorophenyl)-7-methyl-1H-indazole-5-carboxylic acid
To 430 mg of 3-(3-fluorophenyl)-7-methyl-1H-indazole-5-carbonitrile were sequentially added 6.0 ml of glacial acetic acid, 2.0 ml of water and 2.0 ml of concentrated sulfuric acid, followed by stirring at 100° C. for one day. After standing to cool, the reaction mixture was diluted with 20 ml of water, and the resulting crystals were collected by filtration. The crystals were sequentially washed with water and diethyl ether, to give 360 mg of the title compound as colorless crystals.

reactant | 3-(3-fluorophenyl)-7-methyl-1H-indazole-5-carbonitrile | 430 mg | FC=1C=C(C=CC1)C1=NNC2=C(C=C(C=C12)C#N)C | C15H10FN3
reactant | acetic acid | 6.0 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 2.0 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 ml | O | H2O
solvent | water | 2.0 ml | O | H2O
product | 3-(3-Fluorophenyl)-7-methyl-1H-indazole-5-carboxylic acid | 360 mg | FC=1C=C(C=CC1)C1=NNC2=C(C=C(C=C12)C(=O)O)C | C15H11FN2O2
